US07141655B2
1.1: 4-(bromopropionamido)-phenylarsineoxide
Bromopropionic acid anhydride [formed by reacting bromopropionic acid (1.66 g, 10.86 mmol) with DCC (1.12 g, 5.43 mmol) in 20 ml anhydrous dichloromethane for 15 minutes at 25° C., and filtering off the solid that precipitated] was added to a solution of aminophenylarsineoxide (1 g, 5.43 mmol, synthesized according to published protocol) in 10 ml DMF, and allowed to stir overnight. The amino phenylarsineoxide was rendered soluble by adding to it 10.86 mmol HCl/ether followed by neutralization with triethylamine and filtering the away the solid that formed. The solution was quenched with 20 ml water, and filtered to remove solids. The filtrate was evaporated to an oil, and purified via flash chromatography. In later preparations, 3-bromopropionyl chloride was used instead of the anhydride.

reactant | bromopropionic acid | 10.86 mmol, 1.66 g | BrC(C(=O)O)C | C3H5BrO2
reactant | DCC | 5.43 mmol, 1.12 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | aminophenylarsineoxide | 5.43 mmol, 1 g | N[AsH](C1=CC=CC=C1)=O | C6H8AsNO
reactant | HCl ether | 10.86 mmol | Cl.CCOCC
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 4-(bromopropionamido)-phenylarsineoxide | BrCCC(=O)NC1=CC=C(C=C1)[AsH2]=O | C9H11AsBrNO2
